US05569655
To 1 L of toluene was added 14 g (0.058 mol) of 4-methoxy-1-phenyl-indan-1-ol and 100 mg of p-toluenesulfonic acid and the mixture was placed on a Rotovap® and the solvent was distilled in vacuo (40 mm) until an oil residue was obtained. The oil was chromatographed (silica, 1:1 hexane/methylene chloride followed by ether) to afford 8.6 g (60.2%) of 1-phenyl-4-methoxy-indene as a pale red oil.

reactant | 4-methoxy-1-phenyl-indan-1-ol | 0.058 mol, 14 g | COC1=C2CCC(C2=CC=C1)(O)C1=CC=CC=C1 | C16H16O2
reactant | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
product | 1-phenyl-4-methoxy-indene | 8.6 g, 60.2% | C1(=CC=CC=C1)C1C=CC2=C(C=CC=C12)OC | C16H14O
